US05025031
Sulfamic acid 2-[4-(phenylmethoxy)phenoxy]ethyl ester
To a stirred suspension of 30.0 g (0.12 mole) of 4-(benzyloxy)phenoxyethanol in 150 ml of acetonitrile was added simultaneously 59 ml (0.18 mole) of sulfamoyl chloride solution (3.14 M solution in acetonitrile) and 19.5 g (0.19 mole) of triethylamine. The resulting clear solution was stirred at ambient temperature for 5 hr and then poured into 2 L of water. The resulting solid was collected by filtration and the filter cake was washed with 1.5 L of water and dried (air). The solid was recrystallized from chloroform to yield 31.1 g (78%) of a white solid, mp 125°-128° C.

reactant | 4-(benzyloxy)phenoxyethanol | 0.12 mole, 30.0 g | C(C1=CC=CC=C1)OC1=CC=C(OC(C)O)C=C1 | C15H16O3
reactant | sulfamoyl chloride | 0.18 mole, 3.14 M, 59 ml | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | triethylamine | 0.19 mole, 19.5 g | C(C)N(CC)CC | C6H15N
reactant | water | 2 L | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | Sulfamic acid 2-[4-(phenylmethoxy)phenoxy]ethyl ester | 31.1 g, 78% | C1(=CC=CC=C1)COC1=CC=C(OCCOS(N)(=O)=O)C=C1 | C15H17NO5S
